US07479495B2
2,2,2-Trifluoro-N-(2-methyl-5-nitro-phenyl)-acetamide
2-Methyl-5-nitro-phenylamine (3.00 g, 1972 mmol) was taken up in dry DCM, under argon, and triethylamine (3.99 g, 39.44 mmol, 5.50 mL) and DMAP (0.24 g, 1.97 mmol) were added. The reaction was cooled to 0EC and trifluoroacetic anhydride (6.21 g, 29.58 mmol, 4.18 mL) was added slowly via syringe. The reaction was allowed to slowly warm to room temp and stirred for 12 h. The reaction mixture poured into 1N HCl and the aqueous layer was extracted three times with ethyl acetate. The combined organic layers were washed with saturated sodium bicarbonate, water, brine and dried over anhydrous magnesium sulfate. The solution was filtered and the solvent removed under reduced pressure. The product was isolated by flash chromatography. (3:1 hexane/ethyl acetate) Yield 3.91 g. 1H NMR (CDCl3, 300 MHz): δ 2.43 (s, 3H), 7.45 (d, J=9 Hz, 1H), 8.10 (d, J=9 Hz, 1H), 8.69 (s, 1H).

reactant | 2-Methyl-5-nitro-phenylamine | 1972 mmol, 3.00 g | CC1=C(C=C(C=C1)[N+](=O)[O-])N | C7H8N2O2
reactant | triethylamine | 39.44 mmol, 5.50 mL, 3.99 g | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 29.58 mmol, 4.18 mL, 6.21 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | HCl | 1N | Cl | ClH
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 1.97 mmol, 0.24 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 2,2,2-Trifluoro-N-(2-methyl-5-nitro-phenyl)-acetamide | FC(C(=O)NC1=C(C=CC(=C1)[N+](=O)[O-])C)(F)F | C9H7F3N2O3
